data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1593,"C[C:1](C)=[CH:2]C1=CC=CC=C1.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,571,"CC(=O)[O:1][H:2].NCCNC(C(=O)C1=CC=CC=C1)(C1=CC=CC=C1)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5393,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.OC1=C([O+:2](C2(O)CCCCC2)[H:3])C=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3562,"CC(=O)CC(C)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1112,"CCOC(CCC(=O)OC(C)=O)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,774,"CO[CH:1]=[OH+:2].C[NH:3]C.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9163,"CC1(C)OC2C=CC3C(OC[C:1]4([H:2])C=C5OCOC5=C(Br)[C+:3]34)C2O1.O=S(=O)(C(F)(F)F)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,9431,"CC[O-:1].CO.CO[C:2]([C:3]1([H:4])C(=C(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC1C1=CC(C(F)(F)F)=CC(C(F)(F)F)=C1)=[O:5].[H][H].[Na+]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,2940,"C1=CC=NC=C1.C1CCOC1.Cl[C:1](C1=CC=CO1)=[O:2].O=C(CCl)NC1=C([NH2:3])C2=C(C=C1)C(=O)C1=C(C=CC=C1)C2=O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10163,"S[CH:1]=[NH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,7494,"CCOC(=O)C[NH2+:1][P:2](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[OH:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3342,"CC(=O)OC1=C2OC3C(=O)CCC4(O)C5CC(=C2C34CC[N:1]5CC2CC2)C=C1.[CH3:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,186,"CN=[C:1]=[NH+:2]C.C[S+](C)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5394,"CCCC=C(C)C(NC(C)(C)C)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7807,"CC(=O)CCC(O)(C1=CC=C(S(C)(=O)=O)C=C1)[NH+:1](C1=CC=C(F)C=C1)[H:2].CC1=CC=C(S(=O)(=O)[O-:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4525,"CC1(C)OC2C[N:1]3CCC[CH:2]([O:3]S(C)(=O)=O)C3C2O1.[Cl-].[Li+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4048,"C1=CC=[N:1]C=C1.CCC(C)(C)[O+:2](P(=O)(Cl)Cl)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10121,"C[Si-:1](C)(C)(I)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,3555,"CC(=O)[O:1][C:2]1([O-:3])CCCCO1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4891,"CC(=O)CCC(=O)C1=CC(C(=O)CCC(C)=O)=CC(C(=O)CCC(C)([NH3+])[O-:1])=C1.CC(=O)[O:2][H:3].O=C[O-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5074,"C[NH+:1]=[CH2:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1661,"C[C:1](C)=[CH:2]CCCC[C+:3](C)C|((1, 2), 3)"
train,pmechdb_split_0,0,9585,"C=CC(N)(O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9755,"CC[CH+:1]C1=CC=CC=C1.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,6739,"CO[C:1](O)=[N+:2](C)C.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4562,"C1=CC=C(C[S:1](C2=NC3=C(C=CC=C3)N2)=[O:2])N=C1|((1, 2), 2)"
train,pmechdb_split_0,0,9882,"CC(C)(C)[OH:1].CC[CH+:2]C|(1, 2)"
train,pmechdb_split_0,0,5066,"C[CH:1]([C:2]1(C)C(=O)CC[C:3]1=[O:4])[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1771,"CC(=O)O[S+](C1=CC=CC=C1)[CH:1](C1(O)CC(C)C(CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)=CC1(C)CCCO[Si](C)(C)C(C)(C)C)[H:2].CC(=O)[O-:3].[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5464,"C[As+](C)(C)[CH:1]=[CH2:2].[K][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1438,"O=S(=O)(O)C1=C2C=C[CH:1]=[CH:2]C2=CC=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3318,"C1CCOC1.COC(=O)C1(C)CCCC2(C)C(=[O+:1][H:2])CCCC12.OCCO.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9561,"CC(=O)O[C:1](C)=[OH+:2].CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4847,"C#CC[Si](C)(C)C.CCOC(=O)[N:1](CC1=CC=CC=C1)[CH:2](C1=CC=CC=C1)[O+:3](CC)[Al-]([Cl])([Cl])[CH2]C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10108,"CC1(CCC(C)(N2CCCC2C(=O)[O:1][H:2])[OH:3])C(=O)CCC1=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4129,"C[P:1](C)C.[Br:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5957,"C[S:1]C1CCCCC1.C[S:2][S+:3](C)C.F[B-](F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10151,"C[O+:1](C)[Si-:2](C)(C)(C)I|((2, 1), 1)"
train,pmechdb_split_0,0,676,"[CH3][Sn]([CH3])([CH3])[C]1=C(CO[Si:1](C)(C)C)C=CC=C1.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,891,"COC1=C2C3=C(C=C1)CC1N(CC4CC4)CCC34C1(O)CC[CH-:1][CH:2]4[O:3]2.N#N.O.[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7252,"C[C:1]([CH:2](C(O)C1=CC=CC=C1)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8506,"CCF.CC[N+:1](CC)=[S:2](F)[O-:3].F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7718,"CCO.CCOP(=O)(OCC)C(C)C(=O)CC1CCCC1(OCCO)[OH+:1][H:2].[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5172,"CO[C:1](O)([NH:2]C)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8983,"CC(C)(CC[O-:1])[C:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2218,"C1=CC=[N:1]C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.OCC[O+:2](C(O)C1=C(Br)C=C2OCOC2=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1269,"CCN[C:1](CCC(=O)OCC)([OH:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6920,"CCO[C:1]([C:2](C)(C)[H:3])=[O:4].CC[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5718,"CN[C:1](NC)=[OH+:2]|((1, 2), 2)"
